US07897607B2
2-(Dipropylamino)-5-(2-fluoro-4-hydroxyphenyl)-3,7-dimethyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one
To a solution of 5-[4-(benzyloxy)-2-fluorophenyl]-2-(dipropylamino)-3,7-dimethyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one (194 mg, 0.419 mmol) was added 10% palladium on carbon (50 mg), and the mixture was stirred at room temperature for 15 hours under hydrogen atmosphere. The catalyst was removed by filtration, and the filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography eluting with a 25% hexane/ethyl acetate mixture. The desired fractions were concentrated in vacuo, and the resulting crystals were washed with diethyl ether to give 42 mg (27%) of the title compound.

reactant | 5-[4-(benzyloxy)-2-fluorophenyl]-2-(dipropylamino)-3,7-dimethyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one | 0.419 mmol, 194 mg | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C1=CN(C=2N=C(N(C(C21)=O)C)N(CCC)CCC)C)F | C27H31FN4O2
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
product | 2-(Dipropylamino)-5-(2-fluoro-4-hydroxyphenyl)-3,7-dimethyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one | 42 mg, 27% | C(CC)N(C=1N(C(C2=C(N1)N(C=C2C2=C(C=C(C=C2)O)F)C)=O)C)CCC | C20H25FN4O2
